2125-09-07 08:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2125-9-6**] 06:13 PM
 DIALYSIS CATHETER - START [**2125-9-6**] 06:14 PM
 FEVER - 101.1
F - [**2125-9-6**] 06:11 PM
   -? Aspiration overnight per nursing
   -blood cx GPC clusters this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-9-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-9-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-7**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 105 (76 - 107) bpm
   BP: 113/59(72) {80/49(61) - 128/95(101)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
    CVP: 18 (12 - 24)mmHg
   Total In:
                                                                  2,050 mL
                                                                  1,147 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                  2,050 mL
                                                                    967 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    305 mL
   Urine:
                                                                     60 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,990 mL
                                                                    842 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   9.7 g/dL
   99 mg/dL
   4.2 mg/dL
   24 mEq/L
   4.5 mEq/L
   36 mg/dL
   101 mEq/L
   140 mEq/L
   29.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2125-9-7**]  05:30 AM
   WBC
   6.7
   Hct
   29.7
   Plt
   55
   Cr
   4.2
   TropT
   0.04
   Glucose
   99
   Other labs: PT / PTT / INR:16.3/28.3/1.5, CK / CKMB /
   Troponin-T:61/2/0.04, ALT / AST:14/43, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:90.7 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:7.6 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   81 year-old male with a history of ESRD on HD, metastatic renal cell
   carcinoma, atrial fibrillation, who presented with fatigue and found to
   have hypotension, elevated lactate, and tachypnea concerning for
   sepsis.
   .
   Plan:
   # Sepsis
 On admission, patient met SIRS criteria with tachypnea,
   hypotension, and elevated lactate. Most likely source is the HD
   catheter which, on exam was red and tender. This AM blood cultures
   taken  in ED grew out GPC in clusters. Urine culture is pending. CXR
   was unimpressive but will repeat for assessment.
   - Continue IV fluids with goal CVP 8-12, if needed start levophed to
   maintain MAP>65
   -will contact IR to pull HD tunnel line and replace on Mon/Tues
   - HD today
   - given GPC is likely source would continue vancomycin
   - continue levofloxacin until remainder of blood and urine cultures
   return
   - Trend WBC count, fever curve, lactate.
   - f/u repeat CXR
   - f/u sputum cx if any could be obtained
   - f/u renal recs today
   .
   # Thrombocytopenia: At baseline 92 on admission. DIC labs are normal.
   At this point would also consider heparin induced thrombocytopenia
   (progressive decrease of plt count since last month at 200s). Could
   also be secondary to HD itself, viral infection, or other drug induced
   reaction. Given patients meds heparin seems the most likely source.
   -          f/u renal for recommendations
   -          heparin Ab labs
   .
   # AFib: Not anti-coagulated. Currently rate controlled.
   -          holding beta blocker until after HD then reassess
   -          hold anticoagulation
   .
   # CAD: s/p MI.   On aspirin, beta blocker at home. Will hold both until
   hypotension is under control and thrombocytopenia workup is complete.
   - as above
   .
   # CHF: EF 60%. BNP [**Numeric Identifier 3911**]. Will monitor I/O closely, HD and lasix if
   necessary (however will hold while he is getting HD).
   -optimize electrolytes
   - strict I/O
   -reassess I/O goals post HD as may continue to be hypotensive
   .
   # Stage V Kidney Failure on HD: Renal service following. Will contact
   IR to remove tunnel line and replace given likely infection nidus.
   -          HD this am
   -          -f/u electrolytes
   .
   # COPD: ? restrictive physiology on PFTs in [**2117**]. Currently patient is
   asymptomatic. There is question of OSA as well but patient refused CPAP
   overnight.
   - cont Tiotropium, albuterol prn
   - sleep consult
   .
   # History of CVA in [**2117**] with R sided weakness:
   -will continue to hold ASA at this time until thrombocytopenia is fully
   worked up
   -monitor BP
   .
   # FEN: NPO for now, check electrolytes post-HD, replete as needed
   .
   # PPX: PPI, bowel regimen, pneumoboots, hold heparin and ASA for now
   .
   # CODE: Full
   .
   # ACCESS: 2 PIV- AV fistula/HD line
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2125-9-6**] 06:13 PM
   Dialysis Catheter - [**2125-9-6**] 06:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Pls see below for physical exam:
   HEENT: EOMI, PERRL, sclera anicteric, MMD
   NECK: Left IJ in place, no bruits, trachea midline
   CHEST: right tunnelled HD catheter w/ surrounding erythema, dressing
   appears dirty, + TTP
   CV: HS distant, irreg, S1S2 no M/G/R,
   PULM: few crackles as bases bilaterally, no wheezes, rales
   ABD: obese, soft, NT, ND, +BS, no HSM, no masses
   EXT: Right foot cool, big toe w/area of necrosis, but good DP pulses
   b/l, non-tender, non-erythematous, left foot warm and well perfused
   NEURO: A&Ox3. CN II
 XII grossly intact. Moves all 4 extremities.
   Strength 4/5 right side, [**4-23**] on left in upper and lower extremities.
   SKIN: No jaundice or gross dermatitis. No ecchymoses.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5095**] [**Name8 (MD) 5096**], MD
   on:[**2125-9-7**] 11:13 ------
   Please note, patient does not have diagnosis of renal cell carcinoma,
   according to patient and his wife. I think this must have been entered
   in error. Please disregard on problem list.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5162**] [**Name8 (MD) 5148**], MD
   on:[**2125-9-7**] 13:20 ------

2125-09-07 09:07:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2125-9-6**] 06:13 PM
 DIALYSIS CATHETER - START [**2125-9-6**] 06:14 PM
 FEVER - 101.1
F - [**2125-9-6**] 06:11 PM
   -3 liter O/N for hypotension
   -Lactate improved to 0.9
   -patient with witnessed aspiration overnight.
                          History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-9-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-9-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2125-9-7**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 105 (76 - 107) bpm
   BP: 113/59(72) {80/49(61) - 128/95(101)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
   CVP: 18 (12 - 24)mmHg
   Total In:
                                                                  2,050 mL
                                                                  1,147 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                  2,050 mL
                                                                    967 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    305 mL
   Urine:
                                                                     60 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,990 mL
                                                                    842 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Patient alert and comfortable, denies back pain
   Lungs
Decreased BS but no prominent crackles or wheezes
   Heart
Regular, NO Murmurs
   Abd
Obese, soft
   Ext-Right great toe
erythema, no warmth
   Chest-HD catheter with 6cm of catheter seen outside of insertion site,
   bloody drainage noted without pus, site is mildly tender distally.
   Labs / Radiology
   9.7 g/dL
   55 K/uL
   99 mg/dL
   4.2 mg/dL
   24 mEq/L
   4.5 mEq/L
   36 mg/dL
   101 mEq/L
   140 mEq/L
   29.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2125-9-7**]  05:30 AM
   WBC
   6.7
   Hct
   29.7
   Plt
   55
   Cr
   4.2
   TropT
   0.04
   Glucose
   99
   Other labs: PT / PTT / INR:16.3/28.3/1.5, CK / CKMB /
   Troponin-T:61/2/0.04, ALT / AST:14/43, Alk Phos / T Bili:63/1.2,
   Differential-Neuts:90.7 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, Ca++:7.6 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: 7.41/44/31--VBG
   Imaging: CXR--He has HD line in place, Left IJ catheter in good
   position, right lung with minimal infiltrate and left lung poorly
   visualized due to technique
   Microbiology: -GPC seen in blood cultures overnight
   Assessment and Plan
   81 yo male with h/o A-fib and ESRD now on HD via catheter and admit
   with malaise and fatigue with febrile illness all concerning for
   catheter related infection.  He has required fluid bolus and with that
   has improved MAP and pressors have not been required.
   1)Sepsis-Concerning for catheter related blood stream infection which
   is well supported by blood culture results to date.  He has had
   improved hemodynamics with IVF bolus but has remained febrile within
   the last 24 hours.
   -Vanco/Levofloxacin
   -F/U blood culture
   -Would favor line change given sepsis and positive blood cultures but
   will have to be considered with Renal Team
   -IVF bolus as needed
   2)Hypoxemia--He does have sepsis as described above and is certainly at
   risk for non-cardigenic edema and acute lung injury.  In addition to
   this he does have clear witnessed aspiration event overnight as
   possible additional insult contributing to hypoxemia.
   2.5)Thrombocytopenia
Patient 200 at previous admission and now at 50.
   Will need clarification of heparin exposure to consider possible
   sources.
   -Check smear for possible clumping
   -Check of DIC labs
   -Will need to consider HIT if heparin exposure documented
no evidence
   of thombosis
   3)End Stage Renal Disease--
   -Will continue with dialysis as hemodynamics stabilized
   -Nephrocaps
   -Will need to discuss line change with renal
   ICU Care
   Nutrition: Po diet with speech and swallow evaluation given concern for
   aspiration
   Glycemic Control:
   Lines:
   Presep Catheter - [**2125-9-6**] 06:13 PM
   Dialysis Catheter - [**2125-9-6**] 06:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-09-08 07:47:00 Physician Resident Progress Note
Chief Complaint: Fever, Chills
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2125-9-7**] 03:00 PM
 EKG - At [**2125-9-7**] 03:30 PM
 FEVER - 101.3
F - [**2125-9-7**] 08:00 AM
   -Got HD yesterday
   -Got line pulled after HD (no access now if HD required)
   -Rigors and shivering immediately after line pulled out. Dropped
   pressures, central venous O2 60, received 2L NS; BP responded, did
   fine.
   -Started meropenem for proteus (resistant); need to follow
   sensitivities and get Ab aproval today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-9-7**] 08:00 AM
   Other medications:
   Bisacodyl 10 mg PO/PR DAILY:PRN  [**9-6**] @ 1839
   Senna 1 TAB PO BID:PRN  [**9-6**] @ 1839
   Docusate Sodium (Liquid) 100 mg PO BID:PRN  [**9-6**] @ 1839
   Pantoprazole 40 mg PO Q24H  [**9-6**] @ 1839
   Acetaminophen 650 mg PO Q6H:PRN fever  [**9-6**] @ 1839
   Vancomycin 1000 mg IV HD PROTOCOL
   Levofloxacin 250 mg PO Q48H  [**9-6**] @ 1843
   Tiotropium Bromide 1 CAP IH DAILY  [**9-6**] @ [**2021**]
   Ascorbic Acid 1000 mg PO DAILY  [**9-6**] @ [**2021**]
   Fluoxetine 10 mg PO DAILY  [**9-6**] @ [**2021**]
   Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB  [**9-6**] @ [**2021**]
   Nephrocaps 1 CAP PO DAILY  [**9-6**] @ [**2021**]
   Magnesium Sulfate  IV Sliding Scale  [**9-8**] @ 0600
   Potassium Chloride  IV Sliding Scale  [**9-8**] @ 0601
   Potassium Chloride  PO Sliding Scale Duration: 24 Hours
   Hold for K >  [**9-8**] @ 0601
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-8**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.1
C (96.9
   HR: 94 (86 - 135) bpm
   BP: 94/61(68) {88/33(58) - 126/95(98)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 85%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
    CVP: 20 (14 - 23)mmHg
   Total In:
                                                                  4,399 mL
                                                                    428 mL
   PO:
                                                                  1,280 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  3,119 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                    505 mL
                                                                      0 mL
   Urine:
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,894 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 85%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   65 K/uL
   9.5 g/dL
   106 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   22 mg/dL
   108 mEq/L
   141 mEq/L
   28.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2125-9-7**]  05:30 AM
                             [**2125-9-8**]  04:12 AM
   WBC
   6.7
   4.7
   Hct
   29.7
   28.0
   Plt
   55
   65
   Cr
   4.2
   2.9
   TropT
   0.04
   Glucose
   99
   106
   Other labs: PT / PTT / INR:16.0/28.3/1.4, CK / CKMB /
   Troponin-T:61/2/0.04, ALT / AST:27/34, Alk Phos / T Bili:61/0.8,
   Differential-Neuts:90.7 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:7.3
   mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   81 year-old male with a history of ESRD on HD, atrial fibrillation, who
   presented with fatigue and found to have hypotension, elevated lactate,
   and tachypnea concerning for sepsis.
   .
   Plan:
   # Sepsis
 Patient had rigors and chills after line was pulled
   yesterday. Did not respond to tylenol or ibuprofen. Mild improvement
   with fentanyl. Growing GPC in clusters in blood and proteus in urine.
   Currently on vancomycin per HD protocol and levofloxacin q48 hours. CVP
   of 12, HCT stable. Patient seems stable now, but was in septic [**Last Name (un) 5486**]
   last night. His response was very fast and with small ammount of fluid.
   However, fluids may be problem[**Name (NI) 1114**] on him since there is no HD access
   for now. The most likely source for indection was the HD line, and the
   fact that patient rigored after it was pulled strengthens the evidence.
   There is question of PNA on CXR, but it is not impressive.
   - Continue IV fluids with goal CVP 12-16, if still hypotensive can give
   RBCs and check central SVO2; and if needed start levophed to maintain
   MAP>65
   - If patient unstable, we will broaden coverage to include pseudomonas
   and posibly ESBL bacteria given patient E coli, proteus and multiple
   antibiotics treatments in the past
   - will contact IR to put HD tunnel line and replace on Mon or temporal
   line depending on cultures
   - given GPC is likely source would continue vancomycin
   - continue levofloxacin until remainder of blood and urine cultures
   return and sensitivities to proteus
   - Trend WBC count, fever curve, lactate.
   - f/u repeat CXR
   - f/u sputum cx if any could be obtained
   - f/u renal recs today
   .
   # Thrombocytopenia: At baseline 92 on admission. DIC labs are normal.
   At this point would also consider heparin induced thrombocytopenia
   (progressive decrease of plt count since last month at 200s). Could
   also be secondary to HD itself, viral infection, or other drug induced
   reaction. Given patients meds heparin seems the most likely source.
   -          f/u renal for recommendations
   -          heparin Ab labs
   -          Transfuse plts if <20,000
   .
   # AFib: Not anti-coagulated. Currently rate controlled. CHADS2 2+
   -          holding beta blocker until after HD then reassess
   -          hold anticoagulation
   .
   # CAD: s/p MI.   On aspirin, beta blocker at home. Will hold both until
   hypotension is under control and thrombocytopenia workup is complete.
   - as above
   .
   # CHF: EF 60%. BNP [**Numeric Identifier 3911**]. Will monitor I/O closely, HD and lasix if
   necessary, but not likely due to septic physiology now.
   -optimize electrolytes
   - strict I/O
   -reassess I/O goals post HD as may continue to be hypotensive
   .
   # Stage V Kidney Failure on HD: Renal service following.
          -      HD Monday
   -          -f/u electrolytes
   .
   # COPD: ? restrictive physiology on PFTs in [**2117**]. Currently patient is
   asymptomatic. There is question of OSA as well but patient refused CPAP
   overnight.
   - cont Tiotropium, albuterol prn
   - sleep consult
   .
   # History of CVA in [**2117**] with R sided weakness:
   -will continue to hold ASA at this time until thrombocytopenia is fully
   worked up
   -monitor BP
   .
   # FEN: NPO for now, check electrolytes post-HD, replete as needed
   .
   # PPX: PPI, bowel regimen, pneumoboots, hold heparin and ASA for now
   .
   # CODE: Full
   .
   # ACCESS: 2 PIV- AV fistula/HD line
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2125-9-6**] 06:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-09 06:50:00 Physician Resident Progress Note
Chief Complaint: HD line sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2125-9-8**] 10:42 AM
   x2 (CVL and venipuncture sent)
   yesterday, patient hemodynamically stable with good blood pressure. HD
   line now growing gram + cocci in clusters not yet speciated. additional
   blood culture from [**9-7**] now also positive. Patient with episode of
   desat this AM with wheezing. turned up oxygen, patient refused
   nebulizer treatment. As patient 1.4 liters positive this morning given
   20 IV lasix to try to keep patient even until HD starts again tomorrow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: denies
   Respiratory: shortness of breath
   Gastrointestinal: denies
   Flowsheet Data as of  [**2125-9-9**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 88 (86 - 109) bpm
   BP: 114/75(82) {93/60(68) - 126/85(90)} mmHg
   RR: 27 (19 - 33) insp/min
   SpO2: 88%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
    CVP: 13 (9 - 21)mmHg
   Total In:
                                                                  1,490 mL
                                                                    100 mL
   PO:
                                                                  1,240 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                     71 mL
                                                                      0 mL
   Urine:
                                                                     71 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,419 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : bilaterally), no rhonchi
   or rales appreciated
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   75 K/uL
   9.2 g/dL
   99 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   33 mg/dL
   106 mEq/L
   142 mEq/L
   28.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2125-9-7**]  05:30 AM
                             [**2125-9-8**]  04:12 AM
                             [**2125-9-9**]  03:13 AM
   WBC
   6.7
   4.7
   4.8
   Hct
   29.7
   28.0
   28.1
   Plt
   55
   65
   75
   Cr
   4.2
   2.9
   3.6
   TropT
   0.04
   Glucose
   99
   106
   99
   Other labs: PT / PTT / INR:14.6/28.3/1.3, CK / CKMB /
   Troponin-T:61/2/0.04, ALT / AST:27/34, Alk Phos / T Bili:61/0.8,
   Differential-Neuts:90.7 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:276 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   81 year-old male with a history of ESRD on HD, atrial fibrillation, who
   presented with fatigue and found to have hypotension, elevated lactate,
   and tachypnea with likely HD line sepsis.
   .
   Plan:
   # Sepsis
 Patient with gram + cocci in clusters growing from HD line
   as well as from the blood in multiple cultures which is not yet
   speciated.  second culture grew through vancomycin. Patient had rigors
   and chills after line was pulled, which did not respond to tylenol or
   ibuprofen. Mild improvement with fentanyl. Also with proteus in urine.
   Currently on vancomycin per HD protocol and levofloxacin q48 hours. HCT
   stable, BP stable. There is question of PNA on CXR, but it is not
   impressive.
   - hold on additional IV fluids for now, goal CVP 12-16
   - If patient unstable, we will broaden coverage to include pseudomonas
   and posibly ESBL bacteria given patient E coli, proteus and multiple
   antibiotics treatments in the past
   - will contact IR to put temporal line for monday given that cultures
   are still positive and cannot have new tunnel line
   - given GPC is likely source would continue vancomycin
   - continue levofloxacin until remainder of blood and urine cultures
   return and sensitivities to proteus
   - Trend WBC count, fever curve, lactate.
   - f/u repeat CXR
   - f/u sputum cx if any could be obtained
   # Thrombocytopenia: At baseline 92 on admission. DIC labs are normal.
   At this point would also consider heparin induced thrombocytopenia
   (progressive decrease of plt count since last month at 200s). Could
   also be secondary to HD itself, viral infection, or other drug induced
   reaction. Given patients meds heparin seems the most likely source.
   -          heparin Ab labs still pending
   - hold subQ heparin, use pneumoboots instead
   -          Transfuse plts if <10 or if < 50, 000 with signs of active
   bleeding
   # AFib: Not anti-coagulated. Currently rate controlled. CHADS2 2+
   -          restarted home better blocker yesterday afternoon
   -          would consider that this patient may benefit from
   anticoagulation for afib long term
   # CAD: s/p MI.   On aspirin, beta blocker at home. Holding aspirin
   until thrombocytopenia workup is complete.
   - hold ASA
   - restarted b-blocker [**9-8**]
   # CHF: EF 60%. BNP [**Numeric Identifier 3911**]. Will monitor I/O closely, HD and lasix if
   necessary, but not likely due to septic physiology now.
   -optimize electrolytes
   - goal while off HD to keep electrolytes even
   # Stage V Kidney Failure on HD: Renal service following.
   -      HD Monday, follow electrolytes
   -          -f/u electrolytes
   # COPD: ? restrictive physiology on PFTs in [**2117**]. Currently patient is
   asymptomatic. There is question of OSA as well but patient refused CPAP
   overnight.
   - patient continues to refuse CPAP in house, will d/c order for it now
   - patient refuses nebs
   # History of CVA in [**2117**] with R sided weakness:
   -will continue to hold ASA at this time until thrombocytopenia is fully
   worked up
   -monitor BP
   .
   # FEN: regular diet, check electrolytes post-HD, replete as needed
   .
   # PPX: PPI, bowel regimen, pneumoboots, hold heparin and ASA for now
   .
   # CODE: Full
   .
   # ACCESS: 2 PIV, IJ
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2125-9-6**] 06:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Proteus grown out of urine which is resistant to ciprofloxacin so
   suspect that also resistant to levofloxacin. Appears to be pansensitive
   to most of the cephalosporins so changed patient to ceftriaxone and
   kept vanco for HD line.  Spoke with renal, plan for dialysis tomorrow
   morning. Would like to transfer him to the west side as now stable for
   the floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5162**] [**Name8 (MD) 5148**], MD
   on:[**2125-9-9**] 08:07 ------

2125-09-10 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Renal with plans to contact IR for placement of HD catheter and HD
   today
   Patient resting in bed with fask mask around neck with sats in the low
   90s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2125-9-9**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-9-9**] 08:00 AM
   Furosemide (Lasix) - [**2125-9-10**] 04:35 AM
   Metoprolol - [**2125-9-10**] 04:48 AM
   Haloperidol (Haldol) - [**2125-9-10**] 04:54 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 88 (84 - 111) bpm
   BP: 104/68(75) {90/52(62) - 146/79(96)} mmHg
   RR: 29 (22 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 14 (13 - 19)mmHg
   Total In:
                                                                    710 mL
   PO:
                                                                    610 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    500 mL
   Urine:
                                                                    420 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    290 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   Physical Examination
   General Appearance: No(t) No acute distress, Overweight / Obese,
   Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, LUE proximal AV fistula +
   thrill
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, oriented to person and situation
   Labs / Radiology
   75 K/uL
   9.2 g/dL
   99 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   33 mg/dL
   106 mEq/L
   142 mEq/L
   28.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2125-9-7**]  05:30 AM
                             [**2125-9-8**]  04:12 AM
                             [**2125-9-9**]  03:13 AM
   WBC
   6.7
   4.7
   4.8
   Hct
   29.7
   28.0
   28.1
   Plt
   55
   65
   75
   Cr
   4.2
   2.9
   3.6
   TropT
   0.04
   Glucose
   99
   106
   99
   Other labs: Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   81 year-old male with a history of ESRD on HD who presented with
   fatigue found to be hypotensive with MRSA HD catheter-associated sepsis
   and proteus UTI initially improved by now with AMS and desat.
   .
   Plan:
   #. Desat - 7L+ LOS in patient with underlying diastolic dysfunction on
   HD. Much of this hypoxia is likely [**1-20**] refractory pulmonary edema/fluid
   overload in setting of removal of HD line as well as fluid
   recessutation for hypotension. Other possibilites include PE,
   aspiration pneumonitis vs pna. Currently, sats are in high 90s on
   non-rebreather.
   - aggressive diuresis diuril 500mg IV and lasix 100mg IV
   - maintain sats >90%
   - renal to touch base with IR re: HD line placement for HD today
   .
   #. AMS - Per chart review, the patient's baseline mental status is
   somewhat poor although his current state seems somewhat worse than his
   baseline.  This could likely be acute delirium superimposed on chronic
   dementia [**1-20**] hypoxia along with both his line infection and UTI. Other
   reasons for his AMS include: meds (ativan, abx), metabolic
   abnormalities, new or untreated infection, inctracranial pathology
   including hemorrhage. Would like to avoid head CT and/or LP as this
   patient has several conditions that explain his AMS and CT and LP would
   require sedation likely to the point of intubation, thereby exposing
   the patient to increased risks assoc with his care with likely low
   yield.
   - haldol 0.5-2 prn agitation
   - frequent reorientation
   - avoid benzos due to concern for paradoxical agitation
   - consider head CT and/or LP if exam changes or mental status fails to
   improve over the next 24 hours
   .
   #. Acute on Chronic Diastolic Dysfunction
   - diuril and lasix as above
   - rate control with metoprolol
   .
   # MRSA line infection with bacteremia - HD catheter-associated line
   infection given positive tip culture [**9-7**] with MRSA and positive blood
   culture from [**9-8**]. 2 week treatment course began [**9-6**]. Recent
   surveillence cultures neg.
   - Central venous line in place, unable to get PIV
   - Continue vanc for 14 day course
   - continue to follow cultures
   - TTE to r/o endocarditis/valvular seeding
   .
   #. Proteus UTI - Complicated UTI in male requires 7 day treatment
   course. Initially treated with levofloxacin beginning on [**9-6**].
   - d/c Ctx 1 g q24 in favor of renally dosed ceftazadime
   .
   # Thrombocytopenia: Baseline is mid-100s. Patient was at 92 on
   admission with INR at baseline of 1.3. DIC labs negative. Plts are
   currently 98 and stable. Heparin has been held due to concern for HIT.
   - f/u P4-Ab
   - continue to hold heparin and PPI/H-2 blockers/meds notorious for
   inducing thrombocytopenia
   .
   # Widened mediastinum on CXR
   - plan for CT to r/o aortic aneurysm
   .
   # AFib/FLUT: Not anti-coagulated. Currently in AFLUT. Held BB initially
   in settling of sepsis, resumed [**9-8**]. Rate is currently in the 120s in
   the setting of agitation and recent hypoxia.
   - metoprolol 5mg IV *3 for rate control with conversion to PO regimen
   upon improvement in his mental status
   - control agitation as above
   .
   # CAD: s/p MI.
   - holding aspirin pending improvement in platelets
   .
   # Anemia: Likely chronic from renal disease
   - will monitor hct
   .
   # Stage V Kidney Failure on HD: On T/T/S schedule. HD tunnelled line
   removed on [**9-8**] in setting of MRSA line infection. Recently placed L AV
   fistula.
   - HD line placement this am followed by HD.
   - follow renal recommendations
   .
   # COPD: Most recent PFTs from [**2117**] showing restrictive dz, no clear
   COPD but low DLCO at that time. No wheezing on exam. Also h/o OSA but
   refuses CPAP. Does desat overnight in association w/ apnea.
   - cont Tiotropium, albuterol prn
   - ordered for CPAP overnight but refuses
   - likely to benefit from PFTs as outpt, pulm outpt f/u
   .
   # History of CVA [**2117**] with R sided weakness:
   - holding aspirin due to low pts
   .
   # FEN: NPO until mental status improves, possibly try Pos this
   afternoon
   .
   # Glycemic control
 good glycemic control
   .
   # ACCESS: left IJ placed in ED on [**9-6**]
   .
   # PPX: bowel regimen prn, pneumoboots
   .
   # CODE: Full
   .
   # Communication
 wife [**Name (NI) 237**] [**Name (NI) 5531**]  [**Telephone/Fax (1) 5532**]; [**Telephone/Fax (1) 5533**]
   .
   # Disp: if stable after line placement, can likely be called out
   sometime today